US09193741B2
Synthesis of N-(3-chloro-4-fluorophenyl)-6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4-amine
To a solution of 4-chloro-6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidine (15 mg, 0.05 mmol) in 1,2-dichloroethane/t-BuOH (1:1, 2 ml) was added 3-chloro-4-fluoroaniline (16 mg, 0.11 mmol). The mixture was heated at 90° C. for 2 days. After cooling down to room temperature, the solvents were removed under reduced pressure. The crude residue was purified by silica gel chromatography (CH2Cl2/MeOH 100:1) to yield the title compound as a white solid (11 mg, 53%).

reactant | 4-chloro-6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidine | 0.05 mmol, 15 mg | ClC=1C2=C(N=C(N1)C)SC(=C2)C2=CC=C(C=C2)F | C13H8ClFN2S
reactant | 3-chloro-4-fluoroaniline | 0.11 mmol, 16 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | 1,2-dichloroethane t-BuOH | 2 ml | ClCCCl.CC(C)(C)O
product | N-(3-chloro-4-fluorophenyl)-6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4-amine | 11 mg, 53% | ClC=1C=C(C=CC1F)NC=1C2=C(N=C(N1)C)SC(=C2)C2=CC=C(C=C2)F | C19H12ClF2N3S
